US05264415
2-(4-chlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]butanoic acid
To a 500 mL flask was charged 95 g (0.34 mole) of 2-(4-chlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]butyramide and 95 g (0.97 mole) of 95% sulfuric acid and 95 g of ice. The reaction was stirred at reflux for 55 hours, after which the reaction was cooled to 10° C. and partitioned between ethyl acetate and water. The mixture was treated with 200 g of 10% sodium hydroxide which resulted in a pH 10 aqueous phase. The organic phase was extracted with 200 ml of water, then 200 ml of 10% sodium hydroxide and again with 200 mL of water. The aqueous phases were combined and washed with ethyl ether then acidified to pH 5 at which point a solid formed. The solid was filtered, washed with water, dried and gave 73 g (77% yield) of a white solid, Example 1 of Table 1.

reactant | 2-(4-chlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]butyramide | 0.34 mole, 95 g | ClC1=CC=C(C=C1)C(C(=O)N)(CC)CN1N=CN=C1 | C13H15ClN4O
reactant | sulfuric acid | 0.97 mole, 95 g | S(O)(O)(=O)=O | H2O4S
product | 2-(4-chlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]butanoic acid | pH 10 | ClC1=CC=C(C=C1)C(C(=O)O)(CC)CN1N=CN=C1 | C13H14ClN3O2
